* Fine symmetric comparator staircase
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.temp 25
.include qualification/cmp-cellpex-mc-gear-20260921-a/cmp.spice
Vdd vdd 0 1.2
Vcm cm 0 .75
Vod od 0 pwl(0 -0.02 9.9e-08 -0.02 1e-07 -0.0199 1.99e-07 -0.0199 2e-07 -0.0198 2.99e-07 -0.0198 3e-07 -0.0197 3.99e-07 -0.0197 4e-07 -0.0196 4.99e-07 -0.0196 5e-07 -0.0195 5.99e-07 -0.0195 6e-07 -0.0194 6.99e-07 -0.0194 7e-07 -0.0193 7.99e-07 -0.0193 8e-07 -0.0192 8.99e-07 -0.0192 9e-07 -0.0191 9.99e-07 -0.0191 1e-06 -0.019 1.099e-06 -0.019 1.1e-06 -0.0189 1.199e-06 -0.0189 1.2e-06 -0.0188 1.299e-06 -0.0188 1.3e-06 -0.0187 1.399e-06 -0.0187 1.4e-06 -0.0186 1.499e-06 -0.0186 1.5e-06 -0.0185 1.599e-06 -0.0185 1.6e-06 -0.0184 1.699e-06 -0.0184 1.7e-06 -0.0183 1.799e-06 -0.0183 1.8e-06 -0.0182 1.899e-06 -0.0182 1.9e-06 -0.0181 1.999e-06 -0.0181 2e-06 -0.018 2.099e-06 -0.018 2.1e-06 -0.0179 2.199e-06 -0.0179 2.2e-06 -0.0178 2.299e-06 -0.0178 2.3e-06 -0.0177 2.399e-06 -0.0177 2.4e-06 -0.0176 2.499e-06 -0.0176 2.5e-06 -0.0175 2.599e-06 -0.0175 2.6e-06 -0.0174 2.699e-06 -0.0174 2.7e-06 -0.0173 2.799e-06 -0.0173 2.8e-06 -0.0172 2.899e-06 -0.0172 2.9e-06 -0.0171 2.999e-06 -0.0171 3e-06 -0.017 3.099e-06 -0.017 3.1e-06 -0.0169 3.199e-06 -0.0169 3.2e-06 -0.0168 3.299e-06 -0.0168 3.3e-06 -0.0167 3.399e-06 -0.0167 3.4e-06 -0.0166 3.499e-06 -0.0166 3.5e-06 -0.0165 3.599e-06 -0.0165 3.6e-06 -0.0164 3.699e-06 -0.0164 3.7e-06 -0.0163 3.799e-06 -0.0163 3.8e-06 -0.0162 3.899e-06 -0.0162 3.9e-06 -0.0161 3.999e-06 -0.0161 4e-06 -0.016 4.099e-06 -0.016 4.1e-06 -0.0159 4.199e-06 -0.0159 4.2e-06 -0.0158 4.299e-06 -0.0158 4.3e-06 -0.0157 4.399e-06 -0.0157 4.4e-06 -0.0156 4.499e-06 -0.0156 4.5e-06 -0.0155 4.599e-06 -0.0155 4.6e-06 -0.0154 4.699e-06 -0.0154 4.7e-06 -0.0153 4.799e-06 -0.0153 4.8e-06 -0.0152 4.899e-06 -0.0152 4.9e-06 -0.0151 4.999e-06 -0.0151 5e-06 -0.015 5.099e-06 -0.015 5.1e-06 -0.0149 5.199e-06 -0.0149 5.2e-06 -0.0148 5.299e-06 -0.0148 5.3e-06 -0.0147 5.399e-06 -0.0147 5.4e-06 -0.0146 5.499e-06 -0.0146 5.5e-06 -0.0145 5.599e-06 -0.0145 5.6e-06 -0.0144 5.699e-06 -0.0144 5.7e-06 -0.0143 5.799e-06 -0.0143 5.8e-06 -0.0142 5.899e-06 -0.0142 5.9e-06 -0.0141 5.999e-06 -0.0141 6e-06 -0.014 6.099e-06 -0.014 6.1e-06 -0.0139 6.199e-06 -0.0139 6.2e-06 -0.0138 6.299e-06 -0.0138 6.3e-06 -0.0137 6.399e-06 -0.0137 6.4e-06 -0.0136 6.499e-06 -0.0136 6.5e-06 -0.0135 6.599e-06 -0.0135 6.6e-06 -0.0134 6.699e-06 -0.0134 6.7e-06 -0.0133 6.799e-06 -0.0133 6.8e-06 -0.0132 6.899e-06 -0.0132 6.9e-06 -0.0131 6.999e-06 -0.0131 7e-06 -0.013 7.099e-06 -0.013 7.1e-06 -0.0129 7.199e-06 -0.0129 7.2e-06 -0.0128 7.299e-06 -0.0128 7.3e-06 -0.0127 7.399e-06 -0.0127 7.4e-06 -0.0126 7.499e-06 -0.0126 7.5e-06 -0.0125 7.599e-06 -0.0125 7.6e-06 -0.0124 7.699e-06 -0.0124 7.7e-06 -0.0123 7.799e-06 -0.0123 7.8e-06 -0.0122 7.899e-06 -0.0122 7.9e-06 -0.0121 7.999e-06 -0.0121 8e-06 -0.012 8.099e-06 -0.012 8.1e-06 -0.0119 8.199e-06 -0.0119 8.2e-06 -0.0118 8.299e-06 -0.0118 8.3e-06 -0.0117 8.399e-06 -0.0117 8.4e-06 -0.0116 8.499e-06 -0.0116 8.5e-06 -0.0115 8.599e-06 -0.0115 8.6e-06 -0.0114 8.699e-06 -0.0114 8.7e-06 -0.0113 8.799e-06 -0.0113 8.8e-06 -0.0112 8.899e-06 -0.0112 8.9e-06 -0.0111 8.999e-06 -0.0111 9e-06 -0.011 9.099e-06 -0.011 9.1e-06 -0.0109 9.199e-06 -0.0109 9.2e-06 -0.0108 9.299e-06 -0.0108 9.3e-06 -0.0107 9.399e-06 -0.0107 9.4e-06 -0.0106 9.499e-06 -0.0106 9.5e-06 -0.0105 9.599e-06 -0.0105 9.6e-06 -0.0104 9.699e-06 -0.0104 9.7e-06 -0.0103 9.799e-06 -0.0103 9.8e-06 -0.0102 9.899e-06 -0.0102 9.9e-06 -0.0101 9.999e-06 -0.0101 1e-05 -0.01 1.0099e-05 -0.01 1.01e-05 -0.0099 1.0199e-05 -0.0099 1.02e-05 -0.0098 1.0299e-05 -0.0098 1.03e-05 -0.0097 1.0399e-05 -0.0097 1.04e-05 -0.0096 1.0499e-05 -0.0096 1.05e-05 -0.0095 1.0599e-05 -0.0095 1.06e-05 -0.0094 1.0699e-05 -0.0094 1.07e-05 -0.0093 1.0799e-05 -0.0093 1.08e-05 -0.0092 1.0899e-05 -0.0092 1.09e-05 -0.0091 1.0999e-05 -0.0091 1.1e-05 -0.009 1.1099e-05 -0.009 1.11e-05 -0.0089 1.1199e-05 -0.0089 1.12e-05 -0.0088 1.1299e-05 -0.0088 1.13e-05 -0.0087 1.1399e-05 -0.0087 1.14e-05 -0.0086 1.1499e-05 -0.0086 1.15e-05 -0.0085 1.1599e-05 -0.0085 1.16e-05 -0.0084 1.1699e-05 -0.0084 1.17e-05 -0.0083 1.1799e-05 -0.0083 1.18e-05 -0.0082 1.1899e-05 -0.0082 1.19e-05 -0.0081 1.1999e-05 -0.0081 1.2e-05 -0.008 1.2099e-05 -0.008 1.21e-05 -0.0079 1.2199e-05 -0.0079 1.22e-05 -0.0078 1.2299e-05 -0.0078 1.23e-05 -0.0077 1.2399e-05 -0.0077 1.24e-05 -0.0076 1.2499e-05 -0.0076 1.25e-05 -0.0075 1.2599e-05 -0.0075 1.26e-05 -0.0074 1.2699e-05 -0.0074 1.27e-05 -0.0073 1.2799e-05 -0.0073 1.28e-05 -0.0072 1.2899e-05 -0.0072 1.29e-05 -0.0071 1.2999e-05 -0.0071 1.3e-05 -0.007 1.3099e-05 -0.007 1.31e-05 -0.0069 1.3199e-05 -0.0069 1.32e-05 -0.0068 1.3299e-05 -0.0068 1.33e-05 -0.0067 1.3399e-05 -0.0067 1.34e-05 -0.0066 1.3499e-05 -0.0066 1.35e-05 -0.0065 1.3599e-05 -0.0065 1.36e-05 -0.0064 1.3699e-05 -0.0064 1.37e-05 -0.0063 1.3799e-05 -0.0063 1.38e-05 -0.0062 1.3899e-05 -0.0062 1.39e-05 -0.0061 1.3999e-05 -0.0061 1.4e-05 -0.006 1.4099e-05 -0.006 1.41e-05 -0.0059 1.4199e-05 -0.0059 1.42e-05 -0.0058 1.4299e-05 -0.0058 1.43e-05 -0.0057 1.4399e-05 -0.0057 1.44e-05 -0.0056 1.4499e-05 -0.0056 1.45e-05 -0.0055 1.4599e-05 -0.0055 1.46e-05 -0.0054 1.4699e-05 -0.0054 1.47e-05 -0.0053 1.4799e-05 -0.0053 1.48e-05 -0.0052 1.4899e-05 -0.0052 1.49e-05 -0.0051 1.4999e-05 -0.0051 1.5e-05 -0.005 1.5099e-05 -0.005 1.51e-05 -0.0049 1.5199e-05 -0.0049 1.52e-05 -0.0048 1.5299e-05 -0.0048 1.53e-05 -0.0047 1.5399e-05 -0.0047 1.54e-05 -0.0046 1.5499e-05 -0.0046 1.55e-05 -0.0045 1.5599e-05 -0.0045 1.56e-05 -0.0044 1.5699e-05 -0.0044 1.57e-05 -0.0043 1.5799e-05 -0.0043 1.58e-05 -0.0042 1.5899e-05 -0.0042 1.59e-05 -0.0041 1.5999e-05 -0.0041 1.6e-05 -0.004 1.6099e-05 -0.004 1.61e-05 -0.0039 1.6199e-05 -0.0039 1.62e-05 -0.0038 1.6299e-05 -0.0038 1.63e-05 -0.0037 1.6399e-05 -0.0037 1.64e-05 -0.0036 1.6499e-05 -0.0036 1.65e-05 -0.0035 1.6599e-05 -0.0035 1.66e-05 -0.0034 1.6699e-05 -0.0034 1.67e-05 -0.0033 1.6799e-05 -0.0033 1.68e-05 -0.0032 1.6899e-05 -0.0032 1.69e-05 -0.0031 1.6999e-05 -0.0031 1.7e-05 -0.003 1.7099e-05 -0.003 1.71e-05 -0.0029 1.7199e-05 -0.0029 1.72e-05 -0.0028 1.7299e-05 -0.0028 1.73e-05 -0.0027 1.7399e-05 -0.0027 1.74e-05 -0.0026 1.7499e-05 -0.0026 1.75e-05 -0.0025 1.7599e-05 -0.0025 1.76e-05 -0.0024 1.7699e-05 -0.0024 1.77e-05 -0.0023 1.7799e-05 -0.0023 1.78e-05 -0.0022 1.7899e-05 -0.0022 1.79e-05 -0.0021 1.7999e-05 -0.0021 1.8e-05 -0.002 1.8099e-05 -0.002 1.81e-05 -0.0019 1.8199e-05 -0.0019 1.82e-05 -0.0018 1.8299e-05 -0.0018 1.83e-05 -0.0017 1.8399e-05 -0.0017 1.84e-05 -0.0016 1.8499e-05 -0.0016 1.85e-05 -0.0015 1.8599e-05 -0.0015 1.86e-05 -0.0014 1.8699e-05 -0.0014 1.87e-05 -0.0013 1.8799e-05 -0.0013 1.88e-05 -0.0012 1.8899e-05 -0.0012 1.89e-05 -0.0011 1.8999e-05 -0.0011 1.9e-05 -0.001 1.9099e-05 -0.001 1.91e-05 -0.000899999999999999 1.9199e-05 -0.000899999999999999 1.92e-05 -0.000799999999999997 1.9299e-05 -0.000799999999999997 1.93e-05 -0.000699999999999999 1.9399e-05 -0.000699999999999999 1.94e-05 -0.000599999999999998 1.9499e-05 -0.000599999999999998 1.95e-05 -0.0005 1.9599e-05 -0.0005 1.96e-05 -0.000399999999999999 1.9699e-05 -0.000399999999999999 1.97e-05 -0.000299999999999997 1.9799e-05 -0.000299999999999997 1.98e-05 -0.000199999999999999 1.9899e-05 -0.000199999999999999 1.99e-05 -9.99999999999979e-05 1.9999e-05 -9.99999999999979e-05 2e-05 0 2.0099e-05 0 2.01e-05 0.000100000000000001 2.0199e-05 0.000100000000000001 2.02e-05 0.000200000000000003 2.0299e-05 0.000200000000000003 2.03e-05 0.000300000000000001 2.0399e-05 0.000300000000000001 2.04e-05 0.000400000000000002 2.0499e-05 0.000400000000000002 2.05e-05 0.0005 2.0599e-05 0.0005 2.06e-05 0.000600000000000001 2.0699e-05 0.000600000000000001 2.07e-05 0.000700000000000003 2.0799e-05 0.000700000000000003 2.08e-05 0.000800000000000001 2.0899e-05 0.000800000000000001 2.09e-05 0.000900000000000002 2.0999e-05 0.000900000000000002 2.1e-05 0.001 2.1099e-05 0.001 2.11e-05 0.0011 2.1199e-05 0.0011 2.12e-05 0.0012 2.1299e-05 0.0012 2.13e-05 0.0013 2.1399e-05 0.0013 2.14e-05 0.0014 2.1499e-05 0.0014 2.15e-05 0.0015 2.1599e-05 0.0015 2.16e-05 0.0016 2.1699e-05 0.0016 2.17e-05 0.0017 2.1799e-05 0.0017 2.18e-05 0.0018 2.1899e-05 0.0018 2.19e-05 0.0019 2.1999e-05 0.0019 2.2e-05 0.002 2.2099e-05 0.002 2.21e-05 0.0021 2.2199e-05 0.0021 2.22e-05 0.0022 2.2299e-05 0.0022 2.23e-05 0.0023 2.2399e-05 0.0023 2.24e-05 0.0024 2.2499e-05 0.0024 2.25e-05 0.0025 2.2599e-05 0.0025 2.26e-05 0.0026 2.2699e-05 0.0026 2.27e-05 0.0027 2.2799e-05 0.0027 2.28e-05 0.0028 2.2899e-05 0.0028 2.29e-05 0.0029 2.2999e-05 0.0029 2.3e-05 0.003 2.3099e-05 0.003 2.31e-05 0.0031 2.3199e-05 0.0031 2.32e-05 0.0032 2.3299e-05 0.0032 2.33e-05 0.0033 2.3399e-05 0.0033 2.34e-05 0.0034 2.3499e-05 0.0034 2.35e-05 0.0035 2.3599e-05 0.0035 2.36e-05 0.0036 2.3699e-05 0.0036 2.37e-05 0.0037 2.3799e-05 0.0037 2.38e-05 0.0038 2.3899e-05 0.0038 2.39e-05 0.0039 2.3999e-05 0.0039 2.4e-05 0.004 2.4099e-05 0.004 2.41e-05 0.0041 2.4199e-05 0.0041 2.42e-05 0.0042 2.4299e-05 0.0042 2.43e-05 0.0043 2.4399e-05 0.0043 2.44e-05 0.0044 2.4499e-05 0.0044 2.45e-05 0.0045 2.4599e-05 0.0045 2.46e-05 0.0046 2.4699e-05 0.0046 2.47e-05 0.0047 2.4799e-05 0.0047 2.48e-05 0.0048 2.4899e-05 0.0048 2.49e-05 0.0049 2.4999e-05 0.0049 2.5e-05 0.005 2.5099e-05 0.005 2.51e-05 0.0051 2.5199e-05 0.0051 2.52e-05 0.0052 2.5299e-05 0.0052 2.53e-05 0.0053 2.5399e-05 0.0053 2.54e-05 0.0054 2.5499e-05 0.0054 2.55e-05 0.0055 2.5599e-05 0.0055 2.56e-05 0.0056 2.5699e-05 0.0056 2.57e-05 0.0057 2.5799e-05 0.0057 2.58e-05 0.0058 2.5899e-05 0.0058 2.59e-05 0.0059 2.5999e-05 0.0059 2.6e-05 0.006 2.6099e-05 0.006 2.61e-05 0.0061 2.6199e-05 0.0061 2.62e-05 0.0062 2.6299e-05 0.0062 2.63e-05 0.0063 2.6399e-05 0.0063 2.64e-05 0.0064 2.6499e-05 0.0064 2.65e-05 0.0065 2.6599e-05 0.0065 2.66e-05 0.0066 2.6699e-05 0.0066 2.67e-05 0.0067 2.6799e-05 0.0067 2.68e-05 0.0068 2.6899e-05 0.0068 2.69e-05 0.0069 2.6999e-05 0.0069 2.7e-05 0.007 2.7099e-05 0.007 2.71e-05 0.0071 2.7199e-05 0.0071 2.72e-05 0.0072 2.7299e-05 0.0072 2.73e-05 0.0073 2.7399e-05 0.0073 2.74e-05 0.0074 2.7499e-05 0.0074 2.75e-05 0.0075 2.7599e-05 0.0075 2.76e-05 0.0076 2.7699e-05 0.0076 2.77e-05 0.0077 2.7799e-05 0.0077 2.78e-05 0.0078 2.7899e-05 0.0078 2.79e-05 0.0079 2.7999e-05 0.0079 2.8e-05 0.008 2.8099e-05 0.008 2.81e-05 0.0081 2.8199e-05 0.0081 2.82e-05 0.0082 2.8299e-05 0.0082 2.83e-05 0.0083 2.8399e-05 0.0083 2.84e-05 0.0084 2.8499e-05 0.0084 2.85e-05 0.0085 2.8599e-05 0.0085 2.86e-05 0.0086 2.8699e-05 0.0086 2.87e-05 0.0087 2.8799e-05 0.0087 2.88e-05 0.0088 2.8899e-05 0.0088 2.89e-05 0.0089 2.8999e-05 0.0089 2.9e-05 0.009 2.9099e-05 0.009 2.91e-05 0.0091 2.9199e-05 0.0091 2.92e-05 0.0092 2.9299e-05 0.0092 2.93e-05 0.0093 2.9399e-05 0.0093 2.94e-05 0.0094 2.9499e-05 0.0094 2.95e-05 0.0095 2.9599e-05 0.0095 2.96e-05 0.0096 2.9699e-05 0.0096 2.97e-05 0.0097 2.9799e-05 0.0097 2.98e-05 0.0098 2.9899e-05 0.0098 2.99e-05 0.0099 2.9999e-05 0.0099 3e-05 0.01 3.0099e-05 0.01 3.01e-05 0.0101 3.0199e-05 0.0101 3.02e-05 0.0102 3.0299e-05 0.0102 3.03e-05 0.0103 3.0399e-05 0.0103 3.04e-05 0.0104 3.0499e-05 0.0104 3.05e-05 0.0105 3.0599e-05 0.0105 3.06e-05 0.0106 3.0699e-05 0.0106 3.07e-05 0.0107 3.0799e-05 0.0107 3.08e-05 0.0108 3.0899e-05 0.0108 3.09e-05 0.0109 3.0999e-05 0.0109 3.1e-05 0.011 3.1099e-05 0.011 3.11e-05 0.0111 3.1199e-05 0.0111 3.12e-05 0.0112 3.1299e-05 0.0112 3.13e-05 0.0113 3.1399e-05 0.0113 3.14e-05 0.0114 3.1499e-05 0.0114 3.15e-05 0.0115 3.1599e-05 0.0115 3.16e-05 0.0116 3.1699e-05 0.0116 3.17e-05 0.0117 3.1799e-05 0.0117 3.18e-05 0.0118 3.1899e-05 0.0118 3.19e-05 0.0119 3.1999e-05 0.0119 3.2e-05 0.012 3.2099e-05 0.012 3.21e-05 0.0121 3.2199e-05 0.0121 3.22e-05 0.0122 3.2299e-05 0.0122 3.23e-05 0.0123 3.2399e-05 0.0123 3.24e-05 0.0124 3.2499e-05 0.0124 3.25e-05 0.0125 3.2599e-05 0.0125 3.26e-05 0.0126 3.2699e-05 0.0126 3.27e-05 0.0127 3.2799e-05 0.0127 3.28e-05 0.0128 3.2899e-05 0.0128 3.29e-05 0.0129 3.2999e-05 0.0129 3.3e-05 0.013 3.3099e-05 0.013 3.31e-05 0.0131 3.3199e-05 0.0131 3.32e-05 0.0132 3.3299e-05 0.0132 3.33e-05 0.0133 3.3399e-05 0.0133 3.34e-05 0.0134 3.3499e-05 0.0134 3.35e-05 0.0135 3.3599e-05 0.0135 3.36e-05 0.0136 3.3699e-05 0.0136 3.37e-05 0.0137 3.3799e-05 0.0137 3.38e-05 0.0138 3.3899e-05 0.0138 3.39e-05 0.0139 3.3999e-05 0.0139 3.4e-05 0.014 3.4099e-05 0.014 3.41e-05 0.0141 3.4199e-05 0.0141 3.42e-05 0.0142 3.4299e-05 0.0142 3.43e-05 0.0143 3.4399e-05 0.0143 3.44e-05 0.0144 3.4499e-05 0.0144 3.45e-05 0.0145 3.4599e-05 0.0145 3.46e-05 0.0146 3.4699e-05 0.0146 3.47e-05 0.0147 3.4799e-05 0.0147 3.48e-05 0.0148 3.4899e-05 0.0148 3.49e-05 0.0149 3.4999e-05 0.0149 3.5e-05 0.015 3.5099e-05 0.015 3.51e-05 0.0151 3.5199e-05 0.0151 3.52e-05 0.0152 3.5299e-05 0.0152 3.53e-05 0.0153 3.5399e-05 0.0153 3.54e-05 0.0154 3.5499e-05 0.0154 3.55e-05 0.0155 3.5599e-05 0.0155 3.56e-05 0.0156 3.5699e-05 0.0156 3.57e-05 0.0157 3.5799e-05 0.0157 3.58e-05 0.0158 3.5899e-05 0.0158 3.59e-05 0.0159 3.5999e-05 0.0159 3.6e-05 0.016 3.6099e-05 0.016 3.61e-05 0.0161 3.6199e-05 0.0161 3.62e-05 0.0162 3.6299e-05 0.0162 3.63e-05 0.0163 3.6399e-05 0.0163 3.64e-05 0.0164 3.6499e-05 0.0164 3.65e-05 0.0165 3.6599e-05 0.0165 3.66e-05 0.0166 3.6699e-05 0.0166 3.67e-05 0.0167 3.6799e-05 0.0167 3.68e-05 0.0168 3.6899e-05 0.0168 3.69e-05 0.0169 3.6999e-05 0.0169 3.7e-05 0.017 3.7099e-05 0.017 3.71e-05 0.0171 3.7199e-05 0.0171 3.72e-05 0.0172 3.7299e-05 0.0172 3.73e-05 0.0173 3.7399e-05 0.0173 3.74e-05 0.0174 3.7499e-05 0.0174 3.75e-05 0.0175 3.7599e-05 0.0175 3.76e-05 0.0176 3.7699e-05 0.0176 3.77e-05 0.0177 3.7799e-05 0.0177 3.78e-05 0.0178 3.7899e-05 0.0178 3.79e-05 0.0179 3.7999e-05 0.0179 3.8e-05 0.018 3.8099e-05 0.018 3.81e-05 0.0181 3.8199e-05 0.0181 3.82e-05 0.0182 3.8299e-05 0.0182 3.83e-05 0.0183 3.8399e-05 0.0183 3.84e-05 0.0184 3.8499e-05 0.0184 3.85e-05 0.0185 3.8599e-05 0.0185 3.86e-05 0.0186 3.8699e-05 0.0186 3.87e-05 0.0187 3.8799e-05 0.0187 3.88e-05 0.0188 3.8899e-05 0.0188 3.89e-05 0.0189 3.8999e-05 0.0189 3.9e-05 0.019 3.9099e-05 0.019 3.91e-05 0.0191 3.9199e-05 0.0191 3.92e-05 0.0192 3.9299e-05 0.0192 3.93e-05 0.0193 3.9399e-05 0.0193 3.94e-05 0.0194 3.9499e-05 0.0194 3.95e-05 0.0195 3.9599e-05 0.0195 3.96e-05 0.0196 3.9699e-05 0.0196 3.97e-05 0.0197 3.9799e-05 0.0197 3.98e-05 0.0198 3.9899e-05 0.0198 3.99e-05 0.0199 3.9999e-05 0.0199 4e-05 0.02)
Ep inp0 0 value={v(cm)+v(od)/2}
En inn0 0 value={v(cm)-v(od)/2}
Rp inp0 inp 1000
Rn inn0 inn 1000
Cp inp 0 1p
Cn inn 0 1p
Vclk clk 0 pulse(0 1.2 20n .2n .2n 50n 100n)
X1 inp inn clk q qb vdd 0 g1_cmp
Cq q 0 10f
Cqb qb 0 10f
.save v(q) v(qb) v(inp) v(inn) v(clk)
.option reltol=1e-5 vntol=1e-7 abstol=1e-14 method=gear
.control
set num_threads=1
set numdgt=15
setseed 62001
reset
set temp=25.0
alter Vcm dc=0.75
tran .2n 4.009e-05 0 0.2n
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-mc-gear-20260921-a/seed62001_t0_cm0.75.dat v(q) v(qb) v(inp) v(inn) v(clk)
echo FINGERPRINT seed62001_t0_cm0.75
print @n.x1.xm6.nsg13_lv_nmos[w]
print @n.x1.xm6.nsg13_lv_nmos[l]
print @n.x1.xm6.nsg13_lv_nmos[delvto]
print @n.x1.xm6.nsg13_lv_nmos[factuo]
print @n.x1.xm7.nsg13_lv_nmos[w]
print @n.x1.xm7.nsg13_lv_nmos[l]
print @n.x1.xm7.nsg13_lv_nmos[delvto]
print @n.x1.xm7.nsg13_lv_nmos[factuo]
print @n.x1.xm8.nsg13_lv_nmos[w]
print @n.x1.xm8.nsg13_lv_nmos[l]
print @n.x1.xm8.nsg13_lv_nmos[delvto]
print @n.x1.xm8.nsg13_lv_nmos[factuo]
print @n.x1.xm9.nsg13_lv_nmos[w]
print @n.x1.xm9.nsg13_lv_nmos[l]
print @n.x1.xm9.nsg13_lv_nmos[delvto]
print @n.x1.xm9.nsg13_lv_nmos[factuo]
print @n.x1.xm12.nsg13_lv_nmos[w]
print @n.x1.xm12.nsg13_lv_nmos[l]
print @n.x1.xm12.nsg13_lv_nmos[delvto]
print @n.x1.xm12.nsg13_lv_nmos[factuo]
print @n.x1.xm13.nsg13_lv_nmos[w]
print @n.x1.xm13.nsg13_lv_nmos[l]
print @n.x1.xm13.nsg13_lv_nmos[delvto]
print @n.x1.xm13.nsg13_lv_nmos[factuo]
print @n.x1.xm14.nsg13_lv_nmos[w]
print @n.x1.xm14.nsg13_lv_nmos[l]
print @n.x1.xm14.nsg13_lv_nmos[delvto]
print @n.x1.xm14.nsg13_lv_nmos[factuo]
print @n.x1.xm15.nsg13_lv_nmos[w]
print @n.x1.xm15.nsg13_lv_nmos[l]
print @n.x1.xm15.nsg13_lv_nmos[delvto]
print @n.x1.xm15.nsg13_lv_nmos[factuo]
echo QUALIFICATION_END
quit 0
.endc
.end
